US06323176B1
2,3,4-Tri-O-Acetyl-6-Deoxy-α-D-Glucopyranosyl Bromide:
In a 10 mL round bottom flask containing 10 mL of glacial acetic acid was placed 6-deoxyglucose (332.3 mg) and the reaction was cooled to 0° C. Hydrobromic acid in glacial acetic acid (5 mL of a 30 wt. % solution) was added dropwise. The reaction was stirred for 4 hours. The reaction was diluted with 100 mL of dichloromethane and washed with 50 mL ice water and then 50 mL of cold saturated aqueous sodium bicarbonate. The organic layer was dried over magnesium sulfate and filtered. The solvent was removed in vacuo to yield the title compound as a yellow solid (636.5 mg, 85.4%) and the product was used without further purification as in Example 1. MS (FAB) calculated for C12H17O7Br (M−Br) 273.1, found 273.1.

reactant | 6-deoxyglucose | 332.3 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)C | C6H12O5
reactant | Hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2,3,4-Tri-O-Acetyl-6-Deoxy-α-D-Glucopyranosyl Bromide | 636.5 mg, 85.4% | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)C)Br | C12H17BrO7
